US07923456B2
Step 2: (S)-5-(4-Bromo-2-fluorophenylamino)-N-(2-hydroxy-propoxy)imidazo[1,5-a]pyrazine-6-carboxamide
To a solution of 5-(4-bromo-2-fluorophenylamino)imidazo[1,5-a]-pyrazine-6-carboxylic acid (100 mg, 0.28 mmol) in anhydrous DMF (1.5 mL) was added, in order, (S)-1-aminooxy-propan-2-ol hydrochloride (37.4 mg, 0.29 mmol, 1.03 eq.), HOBt (40.4 mg, 0.30 mmol, 1.05 eq.), EDCI (57.3 mg, 0.30 mmol, 1.05 eq.), and 4-methylmorpholine (0.15 mL, 1.36 mmol, 4.8 eq.). The reaction mixture was stirred at room temperature under N2 for 7 h and then diluted with ether (25 mL) and ethyl acetate (25 mL). The organic layer was washed with water and brine, dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (Si-PPC, gradient 0 to 40% methanol in ethyl acetate) to give an oil. Crystallization from DCM—ether—hexane afforded the desired product as a white solid (30.3 mg, 25.0%). 1H NMR (DMSO-d6, 400 MHz) δ ppm 11.88 (broad s, 1H), 10.29 (broad s, 1H), 8.82 (s, 1H), 7.98 (s, 1H), 7.92 (s, 1H), 7.65 (dd, J=10.6 Hz, 2.2 Hz, 1H), 7.30 (d, J=8.6 Hz, 1H), 6.78 (t, J=8.4 Hz, 1H), 4.80 (d, J=4.0 Hz, 1H), 3.90-3.81 (m, 1H), 3.75-3.62 (m, 2H), 1.05 (d, J=6.4 Hz, 3H); LCMS (method D2): RT=1.516 min, [M+H]+=424/426.

reactant | 5-(4-bromo-2-fluorophenylamino)imidazo[1,5-a]-pyrazine-6-carboxylic acid | 0.28 mmol, 100 mg | BrC1=CC(=C(C=C1)NC1=C(N=CC=2N1C=NC2)C(=O)O)F | C13H8BrFN4O2
reactant | (S)-1-aminooxy-propan-2-ol hydrochloride | 0.29 mmol, 37.4 mg, 1.03 eq. | Cl.NOC[C@H](C)O
reactant | HOBt | 0.30 mmol, 40.4 mg, 1.05 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.30 mmol, 57.3 mg, 1.05 eq. | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-methylmorpholine | 1.36 mmol, 0.15 mL, 4.8 eq. | CN1CCOCC1 | C5H11NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | ether | 25 mL | CCOCC | C4H10O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (S)-5-(4-Bromo-2-fluorophenylamino)-N-(2-hydroxy-propoxy)imidazo[1,5-a]pyrazine-6-carboxamide | 30.3 mg, 25.0% | BrC1=CC(=C(C=C1)NC1=C(N=CC=2N1C=NC2)C(=O)NOC[C@H](C)O)F | C16H15BrFN5O3
